US07091353B2
1-tert-Butyl-3-[2-(2,6-dioxo-piperidin-3-yl),1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-urea I-9
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.28 g, 1.9 mmol) was added to stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.9 mmol) in acetonitrile (50 ml). After stirring for 1 hour, t-butylisocyanate (0.21 g, 2 mmol) was added. The mixture was stirred at room temperature for 17 hours. The solvent was removed in vacuo and the residue was dissolved in dichloromethane (70 ml) and washed with 0.1 N HCl (20 ml), water (20 ml), brine (20 ml) and dried. The solvent was removed in vacuo and the resulting solid was recrystallized from ethanol/isopropyl ether to give 0.36 g (51%) of the product: mp 186–188° C.; 1H NMR (DMSO-d6) δ 11.04 (s, 1H), 7.77–7.59 (m, 3H), 6.17 (t, J=6.2 Hz, 1H), 5.86 (s, 1H), 508–5.01 (dd, J=5.4 and 12.4 Hz, 1H), 4.49 (d, J=6.0 Hz, 2H), 2.82–2.73 (m, 1H), 2.54–2.40 (m, 2H), 1.98–1.94 (m, 1H), 1.12 (s, 9H); 13C NMR (DMSO-d6) δ 172.33, 169.39, 167.11, 166.59, 156.85, 140.72, 134.20, 132.99, 131.06, 126.54, 121.20, 48.69, 48.37, 37.89, 30.46, 28.88, 21.53; Anal. Calcd. For C19H22N4O5+0.2 water: C, 58.51; H, 5.79; N, 14.37. Found: C, 58.86; H, 6.15; N, 14.24.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 1.9 mmol, 0.28 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.9 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | t-butylisocyanate | 2 mmol, 0.21 g | C(C)(C)(C)N=C=O | C5H9NO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-tert-Butyl-3-[2-(2,6-dioxo-piperidin-3-yl),1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-urea | 0.36 g, 51% | C(C)(C)(C)NC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C19H22N4O5
